US05650386
A 5 L three-neck round bottom flask was fitted with a heating mantle, an overhead mechanical stirrer, an addition funnel, and a thermometer. The reaction was performed under an argon atmosphere. Hydroxylamine-O-sulfonic acid (196.7 g, 1.74 moles, 1.10 equiv.) and formic acid (1 L) were charged into the round bottom flask and stirred to form a white slurry. A solution of cyclooctanone (200.0 g 1.58 moles, 1.0 equiv.) in formic acid (600 mL) was added dropwise to the white slurry via the addition funnel. After the addition, the addition funnel was replaced by a reflux condenser, and the reaction was heated to reflux (internal temperature about 105° C.) for 1 hour to give a brown solution. After the solution was cooled to room temperature, it was poured into a mixture of saturated aqueous ammonium chloride (1.5 L) and water (1.5 L). The aqueous mixture was extracted with chloroform (3×1200 mL). The combined chloroform layers were transferred into a beaker, and saturated sodium bicarbonate (2 L) was added slowly. The chloroform layer was then separated, dried over anhydrous sodium sulfate, and evaporated under reduced pressure to afford a brown oil. The oil was placed in a 500 mL round bottom flask with a magnetic stirrer. The round bottom flask was placed in a silicon oil bath and was fitted with a short path vacuum distillation head equipped with a thermometer. A Cow-type receiver was connected to three 250 mL flasks. 2-Azacyclononanone (145 g, 65%, mp 64°-69° C.) was obtained by vacuum distillation (fraction with head temperature range from 80° to 120° C. at pressures between 3.0 and 3.4 mmHg).

reactant | Hydroxylamine-O-sulfonic acid | 1.74 moles, 196.7 g, 1.10 equiv. | NOS(=O)(=O)O | H3NO4S
reactant | cyclooctanone | 1.58 moles, 200.0 g, 1.0 equiv. | C1(CCCCCCC1)=O | C8H14O
reactant | ammonium chloride | 1.5 L | [Cl-].[NH4+]
reactant | water | 1.5 L | O | H2O
solvent | formic acid | 600 mL | C(=O)O | CH2O2
solvent | formic acid | 1 L | C(=O)O | CH2O2
product | 2-Azacyclononanone | 145 g, 65% | C1(NCCCCCCC1)=O | C8H15NO
